US07790728B2
N-[5-Bromo-6-(1-oxidopyridin-3-yl)pyrazin-2-yl]cyclopropanecarboxamide
To a suspension of N-(5-bromo-6-pyridin-3-ylpyrazin-2-yl)cyclopropanecarboxamide (4.02 g, 12.6 mmol) in CH2Cl2 (45 mL), cooled at 0° C., was added mCPBA (3.11 g, 12.6 mmol) in small portions. Upon addition completion the ice bath was removed and the reaction continued at room temperature for 4 h. The mixture was diluted with CH2Cl2 (30 mL) and washed with saturated NaHCO3 (1×25 mL) and saturated NaCl (1×25 mL). The organic layer was concentrated in vaccuo up to 25 mL volume, and the precipitated product was filtered and washed with Et2O (4×5 mL), giving the title compound as a white powder (3.03 g, 72% yield).

reactant | N-(5-bromo-6-pyridin-3-ylpyrazin-2-yl)cyclopropanecarboxamide | 12.6 mmol, 4.02 g | BrC=1N=CC(=NC1C=1C=NC=CC1)NC(=O)C1CC1 | C13H11BrN4O
reactant | mCPBA | 12.6 mmol, 3.11 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | N-[5-Bromo-6-(1-oxidopyridin-3-yl)pyrazin-2-yl]cyclopropanecarboxamide | 3.03 g, 72% yield | BrC=1N=CC(=NC1C=1C=[N+](C=CC1)[O-])NC(=O)C1CC1 | C13H11BrN4O2
